US08119661B2
Step B. The preparation of tert-butyl 4-(4-hydroxy-1-piperidyl)-4-methyl-piperidine-1-carboxylate
To a stirred solution of tert-butyl 4-cyano-4-(4-hydroxy-1-piperidyl)piperidine-1-carboxylate (5.8 g, 18.74 mmol) in THF (40 mL) was added a 1.4 M solution of MeMgBr in toluene/THF (26.8 mL, 37.48 mmol) at 0° C., and the mixture was stirred at room temperature for 12 h. The reaction was then quenched with saturated aqueous ammonium chloride and the mixture was extracted with dichloromethane (2×30 mL). The combined extracts were concentrated in vacuo to afford (5.42 g, 97%) the title compound, which was used for the next step without further purification.

reactant | tert-butyl 4-cyano-4-(4-hydroxy-1-piperidyl)piperidine-1-carboxylate | 18.74 mmol, 5.8 g | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)N1CCC(CC1)O | C16H27N3O3
reactant | MeMgBr | C[Mg+].[Br-]
reactant | toluene THF | 37.48 mmol, 26.8 mL | C1(=CC=CC=C1)C.C1CCOC1
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(4-hydroxy-1-piperidyl)-4-methyl-piperidine-1-carboxylate | 5.42 g, 97% | OC1CCN(CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)C | C16H30N2O3
